US06573293B2
5-Bromo-1,3-dihydro-indol-2-one was condensed with 4-benzoyl-5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid using method D to give 4-benzoyl-5-(5-bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1H-pyrrole-2-carboxylic acid.

reactant | 5-Bromo-1,3-dihydro-indol-2-one | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | 4-benzoyl-5-formyl-3-methyl-1H-pyrrole-2-carboxylic acid | C(C1=CC=CC=C1)(=O)C=1C(=C(NC1C=O)C(=O)O)C | C14H11NO4
product | 4-benzoyl-5-(5-bromo-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-3-methyl-1H-pyrrole-2-carboxylic acid | C(C1=CC=CC=C1)(=O)C=1C(=C(NC1C=C1C(NC2=CC=C(C=C12)Br)=O)C(=O)O)C | C22H15BrN2O4
